US07915268B2
8-Fluorochroman-4-one.
Oxalyl chloride (8.79 mL) and 1 drop of DMF were added to an ice cold solution of 3-(2-fluorophenoxy)propanoic acid (9.27 g) in DCM (50 mL). The solution was stirred at 0° C. for 2 hours, then aluminum chloride (7.39 g, 55.42 mM) was added and the solution was stirred for 16 hours at room temperature. The mixture was poured onto ice water, and extracted three times with DCM. The combined organics were washed with 0.5M NaOH and brine, then dried, evaporated, and purified by column chromatography (eluting with 20% EtOAc/Hex) to give of the title compound (8.20 g, 98%).

reactant | Oxalyl chloride | 8.79 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(2-fluorophenoxy)propanoic acid | 9.27 g | FC1=C(OCCC(=O)O)C=CC=C1 | C9H9FO3
reactant | aluminum chloride | 55.42 mM, 7.39 g | [Cl-].[Al+3].[Cl-].[Cl-]
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 8-Fluorochroman-4-one | 8.20 g, 98% | FC=1C=CC=C2C(CCOC12)=O | C9H7FO2
